US06436915B1
Synthesis of 3,5-Diamino-4-[(pyridin-3-yl)hydrazono]pyrazole
This compound was prepared using 2-[(pyridin-3-yl)hydrazono]malononitrile (342 mg, 2 mmole), which was derived from 3-aminopyridine (940 mg, 10 mmole)) and malononitrile (858 mg, 13 mmol) as described in Example 8, and hydrazine hydrate (110 mg, 2.2 mmole) in ethanol. Solids had not formed after heating the reaction at 80° C. for 40 minutes, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to room temperature and the solvent was evaporated. The product was obtained after upon re-crystallization from ethanol as a yellow solid (150 mg). 1H NMR (ppm, DMSO-d6): 6.18 (br., s, 4H), 7.20 (dd, 1H), 8.00 (dd, 1H), 8.38 (d, 1H), 8.85 (s, 1H), 10.77 (br., s, 1H).

reactant | 2-[(pyridin-3-yl)hydrazono]malononitrile | 2 mmole, 342 mg | N1=CC(=CC=C1)NN=C(C#N)C#N | C8H5N5
reactant | 3-aminopyridine | 10 mmole, 940 mg | NC=1C=NC=CC1 | C5H6N2
reactant | malononitrile | 13 mmol, 858 mg | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | 2.2 mmole, 110 mg | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3,5-Diamino-4-[(pyridin-3-yl)hydrazono]pyrazole | NC1=NN=C(C1=NNC=1C=NC=CC1)N | C8H9N7
